US05250517
A mixture of 100 mg (0.45 mmol) of N-benzyl-3-carbamoyl-D-alanine, 187 mg (0.45 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy 4-isopropyl-5-hexenyl]imidazole-4-propionamide 0.093 ml of Hunig base and 202 mg of BOP in 10 ml of a 2:1 mixture of acetonitrile and dimethylformamide was stirred at room temperature for 18 hours. Thereafter, the reaction mixture was poured into aqueous ammonium chloride solution, extracted with ethyl acetate, the extracts were washed with sodium carbonate solution, dried over sodium sulfate and evaporated to dryness under reduced pressure. Chromatography of the residue on silica gel with 10% methanol in methylene chloride as the eluting agent yielded 87 mg (32%) of (S)-α-[(R)-2-(benzylamino) 3-carbamoylpropionamido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide as a resin. MS: 595 (M+H)+.

reactant | N-benzyl-3-carbamoyl-D-alanine | 0.45 mmol, 100 mg | C(C1=CC=CC=C1)N[C@H](CC(N)=O)C(=O)O | C11H14N2O3
reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy 4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.45 mmol, 0.093 ml, 187 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | Hunig base | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 202 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-α-[(R)-2-(benzylamino) 3-carbamoylpropionamido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 87 mg, 32% | C(C1=CC=CC=C1)N[C@@H](C(=O)N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1)CC(N)=O | C33H50N6O4
